US07553840B2
A microwave vial (20 ml) was charged with 2-formylphenylboronic acid (298 mg, 2.0 mmol), 2-bromo-furan (350 mg, 2.4 mmol) and 8 ml of acetonitrile. To this mixture was added 4 ml of aqueous sodium carbonate (1M), followed by 100 mg of dichlorobis-(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was extracted with ethylacetate. The organic layer was evaporated to provide a crude material, which was purified by ISCO to give 123 mg of 2-furan-2-yl-benzaldehyde (34% yield).

reactant | 2-formylphenylboronic acid | 2.0 mmol, 298 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | 2-bromo-furan | 2.4 mmol, 350 mg | BrC=1OC=CC1 | C4H3BrO
reactant | sodium carbonate | 1M, 4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis-(triphenylphosphine)-palladium(II) | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 2-furan-2-yl-benzaldehyde | 123 mg, 34% yield | O1C(=CC=C1)C1=C(C=O)C=CC=C1 | C11H8O2
